US06133266
Methyl 2-[2-benzyloxy-5-(2-methyl-1,3-dioxolan-2-yl)phenyl]acetate (9.0 g) was dissolved in 130 ml of diethyl ether, 1.0 g of lithium aluminum hydride in small portions was added to the solution with stirring under ice-cooling, and the mixture was subjected to 1 hour of reaction. Water was added in small portions to the reaction solution with stirring under ice-cooling, and the formed precipitates were removed by filtration. By concentrating the resulting filtrate under reduced pressure, 9.0 g of 2-[2-benzyloxy-5-(2-methyl-1,3-dioxolan-2-yl)phenyl]ethanol was obtained in an oily form.

reactant | Methyl 2-[2-benzyloxy-5-(2-methyl-1,3-dioxolan-2-yl)phenyl]acetate | 9.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1(OCCO1)C)CC(=O)OC | C20H22O5
reactant | lithium aluminum hydride | 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | O | H2O
solvent | diethyl ether | 130 ml | C(C)OCC | C4H10O
product | 2-[2-benzyloxy-5-(2-methyl-1,3-dioxolan-2-yl)phenyl]ethanol | 9.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1(OCCO1)C)CCO | C19H22O4
